US05616586
8-Bromo-5-(2-phenylethylcarbamoyl)-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 8-bromo-5-carboxy-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione (300 mg, 0.96 mmol) and β-phenethylamine (133 μL, 1.061 mmol) to give 383 mg of the title compound (96%): mp 246°~249° C. (dec); 1H NMR (270 MHz, DMSO-d6) δ12.01 (s, 1H), 8.41 (t, 1H, J=5.6 Hz), 7.25 (m, 5H), 7.22 (d, 1H, J=1 Hz), 7.07 (d, 1H, J=1 Hz), 5.07 (dd, 1H, J=10, 5 Hz), 3.65 (dd, 1H, J=17, 10 Hz), 3.30 (dt, 2H, J=5.6, 7 Hz), 3.04 (dd, 1H, J=17, 5 Hz), 2.71 (t, 2H, J=7 Hz).

reactant | 8-bromo-5-carboxy-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione | 0.96 mmol, 300 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(C2)C(=O)O | C11H7BrN2O4
reactant | β-phenethylamine | 1.061 mmol, 133 μL | C1=CC=C(C=C1)CCN | C8H11N
product | 8-Bromo-5-(2-phenylethylcarbamoyl)-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione | 383 mg, 96% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(C2)C(NCCC2=CC=CC=C2)=O | C19H16BrN3O3
